US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.63 mmol) in DMSO (10 mL) was added DIEA (489 mg, 3.79 mmol) and propan-2-amine (149.4 mg, 2.53 mmol) under nitrogen atmosphere. After stirring overnight at 70° C., the reaction mixture was dissolved in water (100 mL), extracted with dichloromethane (3×80 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to afford a residue. Purification via silica gel column chromatography (2% ethyl acetate in petroleum ether) afforded methyl 2-(4-fluorophenyl)-3-(isopropylamino)quinoxaline-6-carboxylate as a light yellow solid (100 mg, 44%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.63 mmol, 200 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | DIEA | 3.79 mmol, 489 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | propan-2-amine | 2.53 mmol, 149.4 mg | CC(C)N | C3H9N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | methyl 2-(4-fluorophenyl)-3-(isopropylamino)quinoxaline-6-carboxylate | 100 mg, 44% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1NC(C)C)C(=O)OC | C19H18FN3O2
